US08623859B2
N-(4-{[3-(Acetylamino)pyrrolidin-1-yl]methyl}benzyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide
The title compound was prepared according to general procedure BH using 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (80 mg, 0.22 mmol), EDCI (61 mg, 0.32 mmol), HOBt (45 mg, 0.34 mmol), DIPEA (0.08 mL, 0.45 mmol), N-(1-{4-[(methylamino)methyl]benzyl}pyrrolidin-3-yl)acetamide dihydrochloride (36 mg, 0.13 mmol) and DCM (20 mL).

reactant | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.22 mmol, 80 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.32 mmol, 61 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.34 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.45 mmol, 0.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(1-{4-[(methylamino)methyl]benzyl}pyrrolidin-3-yl)acetamide dihydrochloride | 0.13 mmol, 36 mg | Cl.Cl.CNCC1=CC=C(CN2CC(CC2)NC(C)=O)C=C1
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{[3-(Acetylamino)pyrrolidin-1-yl]methyl}benzyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide | C(C)(=O)NC1CN(CC1)CC1=CC=C(CN(C(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C31H40N4O6S
